US08044206B2
(1-Benzylpyrolidin-3-yl)methanol was reacted in the presence of triethylamine and sulfur trioxide-pyridine complex in dimethylsulfoxide to produce 1-benzylpyrrolidine-3-carbaldehyde.

reactant | (1-Benzylpyrolidin-3-yl)methanol | C(C1=CC=CC=C1)N1CC(CC1)CO | C12H17NO
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | 1-benzylpyrrolidine-3-carbaldehyde | C(C1=CC=CC=C1)N1CC(CC1)C=O | C12H15NO
